US04827004
A mixture of 22.0 g (71 mmol) of tetrahydro-2-[(3,7,11-trimethyl-6,10-dodecadienyl)oxy]-2H-pyran, 80 ml of 1,2-dimethoxyethane and 16 ml of water is treated at -50° within 30 minutes with 13.5 g (76 mmol) of N-bromosuccinimide. The mixture is subsequently stirred at 0° for a further 2 hours and at room temperature for 30 minutes. The reaction mixture is then poured into ice-water, whereupon the mixture is extracted three times with ethyl acetate. The combined organic phases are washed firstly with saturated sodium hydrogen carbonate solution and then with saturated sodium chloride solution, dried over sodium sulphate, filtered and evaporated. There is obtained crude (E)-3-bromo-2,6,10-trimethyl-12-[(tetrahydro-2H)-pyran-2-yl)oxy]-6-dodecen-2-ol which is subsequently dissolved in 100 ml of methanol and treated at 0° with 14.0 g (0.1 mol) of potassium carbonate. After stirring at 0° for 15 hours the mixture is filtered over Hyflo, whereupon the filtrate is evaporated and the residue is taken up in 600 ml of ice-water and extracted three times with ether. The combined organic phases are washed with water, dried over sodium sulphate, filtered and evaporated. The residue is chromatographed on silica gel with hexane-ethyl acetate 4:1. There is obtained (E)-2-[(10,11-epoxy-3,7,11-trimethyl-6-dodecen-1-yl)oxy]tetrahydro-2H-pyran which is subsequently boiled under reflux for 18 hours together with 8.0 g (40 mmol) of aluminum isopropylate in 80 ml of toluene. The reaction mixture is then evaporated and the residue is taken up in 300 ml of 2N hydrochloric acid. After two-fold extraction with ether the combined organic phases are washed firstly with saturated sodium hydrogen carbonate solution and then with saturated sodium chloride solution, dried over sodium sulphate, filtered and evaporated. There is obtained (E)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6-dodecadien-3-ol which is dissolved in 130 ml of methanol and stirred at room temperature for 4 hours together with 13 g of strongly acidic ion-exchanger (Dowex 50 W X 8). After filtration and removal of the solvent in a rotary evaporator there remains behind a yellowish oil which is chromatographed on silica gel with hexane-ethyl acetate 2:1 with the addition of 0.1% triethylamine. There is obtained (E)-3,7,11-trimethyl-6,10-dodecadiene-1,10-diol in the form of a colourless oil. MS: 240 (M)+, 222 (M--H2O)+.

reactant | tetrahydro-2-[(3,7,11-trimethyl-6,10-dodecadienyl)oxy]-2H-pyran | 71 mmol, 22.0 g | CC(CCOC1OCCCC1)CCC=C(CCC=C(C)C)C | C20H36O2
reactant | 1,2-dimethoxyethane | 80 ml | COCCOC | C4H10O2
reactant | N-bromosuccinimide | 76 mmol, 13.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | 16 ml | O | H2O
product | 6-dodecen-2-ol | CC(CCCC=CCCCCC)O | C12H24O
